US05576324
A suspension of 3-hydroxy-5-n-hexyl-2-cyclohexene-1-one (29.7 g) in toluene (200 ml) was combined with conc. ammonia water (100 ml), and the mixture was stirred at 130° C. for 3.5 hours in an apparatus equipped with a water separator. After completion of the reaction, ether was added. The precipitate was collected by filtration, and was recrystallized from a solvent mixture of chloroform-ether. 17.0 g of 3-amino-5-n-hexyl-2-cyclohexene-1-one was obtained as pale yellow needles having a melting point of 113° C. (57.5%).

reactant | 3-hydroxy-5-n-hexyl-2-cyclohexene-1-one | 29.7 g | OC1=CC(CC(C1)CCCCCC)=O | C12H20O2
reactant | ammonia water | 100 ml | O.N
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-amino-5-n-hexyl-2-cyclohexene-1-one | 17.0 g | NC1=CC(CC(C1)CCCCCC)=O | C12H21NO
